US04013690
a. 4'-cyclohexyl-2'-methoxy-acetophenone
20 g of 3-cyclohexyl anisole are dissolved in 200 cc of benzene, 8.15 g of acetyl chloride are added, and 27.4 g of tin(IV) chloride are subsequently added dropwise at 5° - 10° while stirring. After stirring at 23° for 16 hours, the reaction mixture is poured on ice and extracted thrice with benzene. The organic phase is successively washed with 2 N hydrochloric acid, a 2 N caustic soda solution and water, is dried over anhydrous sodium sulphate and concentrated. The residue is recrystallized from acetone/petroleum ether. The resulting title compound has a M.P. of 99°-100°.

reactant | 3-cyclohexyl anisole | 20 g | C1(CCCCC1)C=1C=C(C=CC1)OC | C13H18O
reactant | acetyl chloride | 8.15 g | C(C)(=O)Cl | C2H3ClO
reactant | tin(IV) chloride | 27.4 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | benzene | 200 cc | C1=CC=CC=C1 | C6H6
product | 4'-cyclohexyl-2'-methoxy-acetophenone | C1(CCCCC1)C1=CC(=C(C=C1)C(C)=O)OC | C15H20O2
